US04200644
This compound was prepared in the manner of Example 3.B., using 59.3 grams (0.34 mole) of 4-fluorophenylthiomethyl chloride and 71.3 grams (0.43 mole) of triethylphosphite. The residue was distilled under reduced pressure to give 89.4 grams (95.7%) of diethyl 4-fluorophenylthiomethylphosphonate; b.p. 147° C./0.6 mm.

reactant | 4-fluorophenylthiomethyl chloride | 0.34 mole, 59.3 grams | FC1=CC=C(C=C1)SCCl | C7H6ClFS
reactant | triethylphosphite | 0.43 mole, 71.3 grams | C(C)OP(OCC)OCC | C6H15O3P
product | diethyl 4-fluorophenylthiomethylphosphonate | 89.4 grams, 95.7% | FC1=CC=C(C=C1)SCP(OCC)(OCC)=O | C11H16FO3PS
